US05753677
To a solution of 5-amino-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.6 g) in dichloromethane (10 ml) is added phenyl isocyanate (0.2 g) under ice-cooling. The mixture is stirred at the same temperature for 30 minutes, and the temperature thereof is raised to room temperature and then the mixture is stirred overnight. The reaction solution is distilled off and the resulting residue is recrystallized from dioxane to give 5-anilinocarbonylamino-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.65 g) as colorless prisms, m.p. 269°-271° C.

reactant | 5-amino-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.6 g | NC1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O | C25H25N3O2
reactant | phenyl isocyanate | 0.2 g | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 5-anilinocarbonylamino-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.65 g | N(C1=CC=CC=C1)C(=O)NC1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O | C32H30N4O3
